US05744488
Methyl 5-(2-t-butoxycarbonylaminoethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate
Diphenylphosphoryl azide (3.99 g) was added to a stirred mixture of methyl 5-(2-carboxyethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate (5.00 g) and triethylamine (1.46 g) in dry t-butanol (30 ml) and the mixture was heated at 100° C. for 18 hours and then evaporated. Theresidue was dissolved in dichloromethane, and the solution was washed twicewith water and dried (MgSO4). The solvent was evaporated and the residue was chromatographed on silica gel. Elution with dichloromethane and evaporation of the product fractions gave the title compound as a gum (4.51 g), Rf. 0.35(SS4). δ(CDCl3): 1.42(9H,s), 2.37(3H,s), 2.73(2H,t), 2.82(2H,t), 3.36(2H,m), 3.68(3H,s), 4.05(2H,s), 4.39(2H,t), 4.50(1H,br), 7.00(1H,d), 7.10-7.25(3H,m) 7.41 (1H,d), 8.39(1H,d), 8.50(1H,s).

reactant | Diphenylphosphoryl azide | 3.99 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methyl 5-(2-carboxyethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 5.00 g | C(=O)(O)CCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CC=1C=NC=CC1 | C22H24N2O4
reactant | triethylamine | 1.46 g | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | Methyl 5-(2-t-butoxycarbonylaminoethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 4.51 g | C(C)(C)(C)OC(=O)NCCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CC=1C=NC=CC1 | C26H33N3O4
